US07098228B2
rac-3-{1-[2-(3,5-Dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid ethyl ester (0.390 g, 0.79 mmol ) was dissolved in 15 ml of dioxane; 1.98 ml of an aqueous solution of LiOH (1.0 molar, 1.98 mmol) were then added at room temperature. The resulting mixture was stirred overnight at room temperature and then poured onto ice, neutralized to pH 4 with HCl (1N) and extracted 3 times with MeCl2. The combined organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated to give 0.242 g (66 %) of rac-3-{1-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid as light yellow solid.

reactant | rac-3-{1-[2-(3,5-Dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid ethyl ester | 0.79 mmol, 0.390 g | C(C)OC(C(CC1=C2C=CN(C2=CC=C1)CC=1N=C(OC1C)C1=CC(=CC(=C1)OC)OC)OCC)=O | C28H32N2O6
reactant | LiOH | 1.98 mmol, 1.0 molar | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | rac-3-{1-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-4-yl}-2-ethoxy-propionic acid | 0.242 g, 66 % | COC=1C=C(C=C(C1)OC)C=1OC(=C(N1)CN1C=CC2=C(C=CC=C12)CC(C(=O)O)OCC)C | C26H28N2O6
